US03950380
To a stirred suspension of methyl 3,5-dinitro-4-phenylbenzoate (145 g) in 2-methoxyethanol (1.5 l), 2 N sodium hydroxide (300 ml) is added dropwise during about 30 minutes. After additional stirring for about 15 minutes, the resulting solution is acidified by the dropwise addition of 4 N hydrochloric acid (250 ml), and the mixture is thereafter diluted with water (about 3 l). After cooling, the resulting precipitate is collected by filtration, washed with water and dried. After recrystallization from aqueous ethanol, 3,5-dinitro-4-phenylbenzoic acid is obtained with a melting point of 219°-221° C.

reactant | methyl 3,5-dinitro-4-phenylbenzoate | 145 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C14H10N2O6
reactant | hydrochloric acid | 4 N, 250 ml | Cl | ClH
solvent | 2-methoxyethanol | 1.5 l | COCCO | C3H8O2
solvent | sodium hydroxide | 2 N, 300 ml | [OH-].[Na+]
solvent | water | about 3 l | O | H2O
product | 3,5-dinitro-4-phenylbenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C13H8N2O6
